US06498251B1
Synthesis Example 7d (the Inventive Compound) 2a-(4-(4-(1-Indanyl)-piperazin-1-yl)butyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one
2a-(3-Formylpropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one (210 mg, 0.90 mmol), 1-(1-indanyl)piperazine hydrochloride (270 mg, 1.0 mmol), acetic acid (540 mg, 9.0 mmol) and sodium triacetoxyborohydride (380 mg, 1.8 mmol) were stirred at room temperature for 20 hours in 1,2-dichloroethane (3 ml). The reaction solution was mixed with ethyl acetate (80 ml), washed with sodium hydroxide aqueous solution (1 N) and saturated brine and dried with anhydrous sodium sulfate, the solvent was removed by evaporation under a reduced pressure, and the thus obtained material was separated and purified by a silica gel column chromatography to obtain 430 mg (1.0 mmol, 100% in yield) of the title compound.

reactant | 2a-(3-Formylpropyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | 0.90 mmol, 210 mg | C(=O)CCCC12C(NC=3C=CC=C(C13)CCC2)=O | C15H17NO2
reactant | 1-(1-indanyl)piperazine hydrochloride | 1.0 mmol, 270 mg | Cl.C1(CCC2=CC=CC=C12)N1CCNCC1
reactant | acetic acid | 9.0 mmol, 540 mg | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 1.8 mmol, 380 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 3 ml | ClCCCl | C2H4Cl2
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | 2a-(4-(4-(1-Indanyl)-piperazin-1-yl)butyl)-2a,3,4,5-tetrahydro-1H-benz[cd]indol-2-one | C1(CCC2=CC=CC=C12)N1CCN(CC1)CCCCC12C(NC=3C=CC=C(C13)CCC2)=O | C28H35N3O
